* source LAB1
R_R1         0 N00351  1k TC=0,0 
V_V1         N00336 0 10Vdc
D_D1         N00336 N00343 Dbreak 
D_D2         N00343 N00347 Dbreak 
D_D3         N00347 N00351 Dbreak 
